US05145980
Methyl 2-methylphenylglyoxylate O-methyl oxime
A mixture of 200 g (1.22 mol) of methyl 2-methylphenylacetate and 377 g (3.66 mol) of tert.-butyl nitrite in 400 ml of tert.-butanol is added rapidly to 150 g (1.34 mol) of potassium tert.-butylate in 1500 ml of anhydrous tert.-butanol, the reaction temperature increasing to 70° C. After a few minutes, the potassium salt which forms begins to precipitate, and the reaction solution becomes difficult to stir. The mixture is stirred for a further one hour, and 261 g (1.84 mol) of methyl iodide are added in one portion. The potassium salt slowly dissolves, and microcrystalline potassium iodide precipitates. The mixture is stirred at room temperature overnight and evaporated, the residue is taken up in methyl tert.-butyl ether/H2O, and the solution is washed several times with H2O, dried over sodium sulfate and re-evaporated. The residue obtained is dissolved in warm isopropanol. H2O is added until the turbidity has just disappeared, and the product is then allowed to crystallize out at 0° C. 114 g (45%, m.p. =65°-66° C.) of product are obtained.

reactant | methyl 2-methylphenylacetate | 1.22 mol, 200 g | CC1=C(C=CC=C1)CC(=O)OC | C10H12O2
reactant | tert.-butyl nitrite | 3.66 mol, 377 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | potassium | [K] | K
reactant | methyl iodide | 1.84 mol, 261 g | CI | CH3I
solvent | tert.-butanol | 400 ml | C(C)(C)(C)O | C4H10O
solvent | tert.-butanol | 1500 ml | C(C)(C)(C)O | C4H10O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | H2O | O | H2O
product | Methyl 2-methylphenylglyoxylate O-methyl oxime | CON=C(C(=O)OC)C1=C(C=CC=C1)C | C11H13NO3
